US05594021
3-Methoxyphenylboronic acid was prepared in the same manner as described in Example 33B from 3-bromoanisole and triisopropyl borate in 82% yield. This was used in the next step without any further purification.

reactant | 3-bromoanisole | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 3-Methoxyphenylboronic acid | 82% yield | COC=1C=C(C=CC1)B(O)O | C7H9BO3
